US08242143B2
2-(2-fluorophenyl)-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine
2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine (0.43 mmol, 100 mg), 2-fluorophenylboronic acid (0.47 mmol, 66 mg), dichlorobis(triphenylphosphine)palladium(II) (0.03 mmol, 18 mg), and potassium carbonate (1.72 mmol, 238 mg) were added to deoxygenated DME:water (1:1, 3 mL) at room temperature. The reaction was heated for 5 min at 150° C. via microwave irradiation, then partitioned in a separatory funnel with EtOAc (100 mL) and water (30 mL). The organic layer was washed with one additional portion of water (20 mL) and the combined aqueous layers back extracted with EtOAc (50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was chromatographed on SiO2, eluting with a 10 to 40% EtOAc gradient in hexanes, to afford the title compound as a tan solid, which was dissolved in ether and precipitated as the hydrochloride salt with 1M HCl in ether. 1H-NMR (CD3OD, 500 MHz) δ 9.13 (s, 1H), 8.69 (d, 1H), 8.30 (d, 1H), 7.98 (s, 1H), 7.84 (dd, 1H), 7.70 (m, 1H), 7.42-7.53 (m, 2H), 2.83 (s, 3H). MS (ESI) 295.13 (M+H+).

reactant | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | 0.43 mmol, 100 mg | ClC1=NC=C(C=C1)C#CC=1N=C(SC1)C | C11H7ClN2S
reactant | 2-fluorophenylboronic acid | 0.47 mmol, 66 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 1.72 mmol, 238 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.03 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2-fluorophenyl)-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | FC1=C(C=CC=C1)C1=NC=C(C=C1)C#CC=1N=C(SC1)C | C17H11FN2S
